US05936129
A round bottom flask equipped with mechanical stirring, a nitrogen inlet, a thermometer, and an addition funnel was charged with 60% sodium hydride in mineral oil (50 g, 1.24 mol), THF (500 mL), and methyl neodecanoate (229 g, 1.23 mol), and the mixture was stirred at room temperature. Acetophenone (74 g, 0.62 mol) was added over 45 min. The temperature was slowly raised to 60° C. and maintained at that temperature for 24 hr. A sample was withdrawn, and analysis indicated the reaction was perhaps 1/4 complete. The reaction mixture was stirred at 60° C. for a total of eight days, continuously and slowly evolving hydrogen gas. Methanol was added to quench excess sodium hydride, followed by dilute sulfuric acid. The separated organic phase was washed with water, and volatiles were removed under vacuum. The residue was diluted with heptane and washed with 10% potassium hydroxide, then with water, and the volatiles removed under vacuum to leave 267 g. This was distilled, giving a heart cut at about 130° C. at a pressure of 0.1 mm Hg. Thin layer chromatography indicated the presence of some acetophenone plus two major components of similar size. The heart cut was purified by flash chromatography. Heptane elution provided 48 g of the less polar component, which was distilled at 165° C. at 1 mm Hg to give 44 g (0.16 mol, 26% yield) of 1-phenyl-3-neononyl-1,3-propanedione. Toluene elution provided 21 g of the more polar component, which was shown to be dypnone.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl neodecanoate | 1.23 mol, 229 g | C(CCCCCC(C)(C)C)(=O)OC | C11H22O2
reactant | Acetophenone | 0.62 mol, 74 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-phenyl-3-neononyl-1,3-propanedione | 0.16 mol, 44 g, 26% yield | C1(=CC=CC=C1)C(CC(=O)CCCCCC(C)(C)C)=O | C18H26O2
